US05304560
To a solution of 1-(3-ethoxycarbonyl-2-propenyl)-2,4-(1H,3H)-quinazolinedione (5.50 g) in tetrahydrofuran-methanol (200 ml, 3:1 V/V) was added 10% palladium on carbon (550 mg). The mixture was stirred vigorously under atmospheric pressure of hydrogen. After 6 hours, the catalyst was filtered off, and the solvent was evaporated. 1-(3-Ethoxycarbonylpropyl)-2,4(1H,3H)-quinazolinedione (5.24 g) as a crystal was obtained by recrystallization from ethanol.

reactant | 1-(3-ethoxycarbonyl-2-propenyl)-2,4-(1H,3H)-quinazolinedione | 5.50 g | C(C)OC(=O)C=CCN1C(NC(C2=CC=CC=C12)=O)=O | C14H14N2O4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran-methanol | 200 ml | O1C(CCC1)CO | C5H10O2
catalyst | palladium on carbon | 550 mg | [Pd] | Pd
product | 1-(3-Ethoxycarbonylpropyl)-2,4(1H,3H)-quinazolinedione | 5.24 g | C(C)OC(=O)CCCN1C(NC(C2=CC=CC=C12)=O)=O | C14H16N2O4
